US05401855
coupling 3-isopropylindole with 4-methoxybenzenethiol to give 3-isopropyl-2-(4-methoxyphenylthio)indole (yield: 72% of pure product);

reactant | 3-isopropylindole | C(C)(C)C1=CNC2=CC=CC=C12 | C11H13N
reactant | 4-methoxybenzenethiol | COC1=CC=C(C=C1)S | C7H8OS
product | 3-isopropyl-2-(4-methoxyphenylthio)indole | yield: 72% | C(C)(C)C1=C(NC2=CC=CC=C12)SC1=CC=C(C=C1)OC | C18H19NOS
